US07897792B2
Dimethylcarbamic acid 3-(3-aminosulfonylamino-2-fluoro-benzyl)-4-fluoromethyl-2-oxo-2H-1-benzopyran-7-yl ester
Chlorosulfonyl isocyanate (0.150 mL) and formic acid (0.065 mL) were mixed at 0° C., and the mixture was stirred at room temperature for 1 hour. Dichloromethane (1.2 mL) was added to this mixture and dissolved, and the mixture was further stirred at room temperature for 4 hours, 0.060 mL was taken from the solution, and added at 0° C. to a solution of dimethylcarbamic acid 3-(3-amino-2-fluorobenzyl)-4-fluoromethyl-2-oxo-2H-1-benzopyran-7-yl ester (compound 1h-1-4F) (25.2 mg) in dichloromethane (1.0 mL)/pyridine (0.0065 mL), and the mixture was stirred at room temperature for 3 hours. Saturated sodium hydrogen carbonate was ten added to the reaction solution, and the mixture was extracted with ethyl acetate. The extracted liquid was washed with saturated saline, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled away under reduced pressure, and the resultant residue was purified by thin layer silica gel chromatography (aminogel) (dichloromethane:methanol=90:10) to yield the title compound (12.0 mg).

reactant | Chlorosulfonyl isocyanate | 0.150 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | formic acid | 0.065 mL | C(=O)O | CH2O2
reactant | dimethylcarbamic acid 3-(3-amino-2-fluorobenzyl)-4-fluoromethyl-2-oxo-2H-1-benzopyran-7-yl ester | 25.2 mg | NC=1C(=C(CC=2C(OC3=C(C2CF)C=CC(=C3)OC(N(C)C)=O)=O)C=CC1)F | C20H18F2N2O4
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
solvent | Dichloromethane | 1.2 mL | ClCCl | CH2Cl2
solvent | pyridine | 0.0065 mL | N1=CC=CC=C1 | C5H5N
product | Dimethylcarbamic acid 3-(3-aminosulfonylamino-2-fluoro-benzyl)-4-fluoromethyl-2-oxo-2H-1-benzopyran-7-yl ester | 12.0 mg | NS(=O)(=O)NC=1C(=C(CC=2C(OC3=C(C2CF)C=CC(=C3)OC(N(C)C)=O)=O)C=CC1)F | C20H19F2N3O6S
